US04192816
A mixture of 9.0 g (40.5 mmoles) of 2,6-dihydroxy-2,5,7,8-tetramethylchroman and 4.54 g (69 mmoles) of 85% KOH in 61 ml of acetonitrile was rapidly stirred and refluxed for 4 hr. The dark-colored mixture, which consisted of two phases, was cooled in an ice bath and treated dropwise, with stirring, with 25 ml of 3 N aqueous HCl whereupon the reaction mixture became lighter in color. This mixture was poured into 1 N aqueous HCl and worked-up with ethyl acetate in the usual manner (the organic extracts were additionally washed with saturated aqueous NaHCO3 solution) affording 14.8 g of rac.-3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile as a red solid.

reactant | 2,6-dihydroxy-2,5,7,8-tetramethylchroman | 40.5 mmoles, 9.0 g | OC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C13H18O3
reactant | KOH | 69 mmoles, 4.54 g | [OH-].[K+]
reactant | HCl | 3 N, 25 ml | Cl | ClH
reactant | HCl | 1 N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 61 ml | C(C)#N | C2H3N
product | rac.-3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile | 14.8 g | OC=1C(=C(C2=C(CCC(O2)(CC#N)C)C1C)C)C | C15H19NO2
